US05962705
Trimethyloxonium tetrafluoroborate/1,8-bis(dimethylamino)naphthalene/4 Å sieves/10-DAB
1,8-bis(dimethylamino)naphthalene (514 mg, 2.4 mmol, 12 equiv.), 4 Å molecular sieves (700 mg) and trimethyloxonium tetrafluoroborate (296 mg, 2 mmol, 10 equiv.) are successively added to a suspension of 10-deacetylbaccatin III (109 mg, 0.2 mmol) in dichloromethane (4 ml) at 25° C. After stirring for 24 h at room temperature, HPLC analysis indicates that the reaction mixture contains 7,10-dimethoxy-10-deacetylbaccatin in an assayed yield of 17%.

reactant | 1,8-bis(dimethylamino)naphthalene | 2.4 mmol, 514 mg, 12 equiv. | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 2 mmol, 296 mg, 10 equiv. | F[B-](F)(F)F.C[O+](C)C
reactant | 10-deacetylbaccatin III | 0.2 mmol, 109 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)O | C29H36O10
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Trimethyloxonium tetrafluoroborate 1,8-bis(dimethylamino)naphthalene | yield of 17% | F[B-](F)(F)F.C[O+](C)C.CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | InChI=1S/C14H18N2.C3H9O.BF4/c1-15(2)12-9-5-7-11-8-6-10-13(14(11)12)16(3)4;1-4(2)3;2-1(3,4)5/h5-10H,1-4H3;1-3H3;/q;+1;-1
